US07507762B2
2-Acetamido-3-cyano-7-dimethylamino-4-(methylenedioxy)phenyl-4H-chromene
To a solution of 2-amino-3-cyano-7-dimethylamino-4-(methylenedioxy)phenyl-4H-chromene (43 mg, 0.13 mmol) in pyridine (1 ml) was added acetic anhydride (0.25 ml, 2.6 mmol) at room temperature. The mixture was stirred at room temperature for 3 days, then diluted with 1:1 hexane/EtOAc (40 ml), washed with water, 2N HCl, water, 2N NaOH, water and brine. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (3:2 hexane/EtOAc) to yield the title compound as a yellow solid (4 mg, 8%). 1H NMR (CDCl3): 6.84-6.73 (m, 4H), 6.50-6.46 (m, 1H), 6.31 (m, 1H), 5.95, 5.94 (2s, 2H), 4.79 (s, 1H), 2.94 (s, 6H), 2.18 (s, 3H).

reactant | 2-amino-3-cyano-7-dimethylamino-4-(methylenedioxy)phenyl-4H-chromene | 0.13 mmol, 43 mg | NC1=C(C=C2C(=C1C#N)OCO2)C=2OC1=CC(=CC=C1CC2)N(C)C | C19H17N3O3
reactant | acetic anhydride | 2.6 mmol, 0.25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | hexane EtOAc | 40 ml | CCCCCC.CCOC(=O)C
product | 2-Acetamido-3-cyano-7-dimethylamino-4-(methylenedioxy)phenyl-4H-chromene | 4 mg, 8% | C(C)(=O)NC1=C(C=C2C(=C1C#N)OCO2)C=2OC1=CC(=CC=C1CC2)N(C)C | C21H19N3O4
